US06291464B1
To a slurry of (S)-1-acetyl-2-methylpiperazine (424 mg) in water (2.5 ml) was added concentrated hydrochloric acid (0.9 ml) dropwise below 25° C. A solution of sodium nitrite (227 mg) in water (2 ml) was added dropwise at 0° C. The mixture was stirred at 0° C. for 2 hours. A solution of sodium hydroxide (409 mg) in water (6 ml) was added dropwise at 0° C. The mixture was extracted with chloroform, washed with water, dried and evaporated to give (S)-1-acetyl-2-methyl-4-nitrosopiperazine (350 mg). This product was used for next step without purification.

reactant | (S)-1-acetyl-2-methylpiperazine | 424 mg | C(C)(=O)N1[C@H](CNCC1)C | C7H14N2O
reactant | hydrochloric acid | 0.9 ml | Cl | ClH
reactant | sodium nitrite | 227 mg | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 409 mg | [OH-].[Na+]
solvent | water | 2.5 ml | O | H2O
solvent | water | 2 ml | O | H2O
solvent | water | 6 ml | O | H2O
product | (S)-1-acetyl-2-methyl-4-nitrosopiperazine | 350 mg | C(C)(=O)N1[C@H](CN(CC1)N=O)C | C7H13N3O2
